US09238644B2
(c) Methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate (K2)
To a solution of methyl 1-(2-((trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxylate (I5) (568 mg, 2.09 mmol) in DCM (20.0 mL) at 0° C. was added TBAF (1.0 M in THF, 3.13 mL, 3.13 mmol). The resulting mixture was stirred at 0° C. for 10 minutes then poured into water (50 mL). The aqueous layer was extracted with DCM (2×50 mL), then the combined organic layers were washed with brine, dried over MgSO4 and the solvent was removed in vacuo. The residue was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, SiO2 cartridge, 0-25% EtOAc in petroleum benzine 40-60° C.) to give the title compound K2 as an off-white solid (140 mg, 34%); 1H NMR (400 MHz, d6-DMSO) δ 7.46 (dt, J=7.5, 0.8 Hz, 1H), 7.40-7.25 (m, 3H), 4.32 (s, 1H), 3.52 (s, 3H), 1.54 (q, J=4.1 Hz, 2H), 1.25-1.19 (m, 2H). LCMS-A: rt 5.921 min; m/z 201 [M+H]+.

reactant | methyl 1-(2-((trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxylate | 2.09 mmol, 568 mg | C[Si](C)(C)C#CC1=C(C=CC=C1)C1(CC1)C(=O)OC | C16H20O2Si
reactant | TBAF | 3.13 mmol, 1.0 M, 3.13 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | 50 mL | O | H2O
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)OC | C13H12O2
